US06326386B1
{2-[3-Chloro-5-(diisopropylcarbamoyl)-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester
To a suspension of 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid (0.10 g) in tetrahydrofuran (5 ml) was added DMF (0.005 ml) and oxalyl chloride (0.175 ml). After 0.5 h DIPEA (0.13 ml), diisopropylamine (0.20 ml) and DMAP (0.002 g) were added. After 18 h the mixture was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The combined organic phases were washed with brine and dried over magnesium sulphate. Filtration and evaporation gave the crude product which was purified by flash column chromatography on silica eluting with cyclohexane/ethyl acetate (1:3). This afforded the title compound as a colourless gum (0.078 g).

reactant | 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid | 0.10 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)O)C=C(C1)Cl)C1=CC=NC=C1 | C19H21ClN2O5
reactant | oxalyl chloride | 0.175 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DIPEA | 0.13 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | diisopropylamine | 0.20 ml | C(C)(C)NC(C)C | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | DMAP | 0.002 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 0.005 ml | CN(C)C=O | C3H7NO
product | {2-[3-Chloro-5-(diisopropylcarbamoyl)-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester | 0.078 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(C(C)C)C(C)C)=O)Cl)=O | C25H34ClN3O4
